US07592453B2
N-((1R,2S)-2-{[(3aS,4S,9bS)-4-(1H-pyrrol-2-yl)-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinolin-1-yl]carbonyl}cyclohexyl)benzamide
Benzyl 2-((3aR*,4R*,9bR*)-1-{[(1S,2R)-2-(benzoylamino)cyclohexyl]carbonyl}-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinolin-4-yl)-1H-pyrrole-1-carboxylate (407 mg, 0.67 mmol) was dissolved in methanol (3 ml), 10% palladium on carbon (50% aqueous, 240 mg) was added, and the mixture was stirred under hydrogen atmosphere for 2 hrs. The reaction solution was filtered, and the filtrate was concentrated under reduced pressure. The obtained residue was subjected to column chromatography using silica gel (30 g), and eluted with hexane-ethyl acetate (9:1-4:1, v/v). The title compound (3aR,4R,9bR) (64 mg, 20%) was obtained as a colorless amorphous form from the first eluted fraction.

reactant | Benzyl 2-((3aR*,4R*,9bR*)-1-{[(1S,2R)-2-(benzoylamino)cyclohexyl]carbonyl}-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinolin-4-yl)-1H-pyrrole-1-carboxylate | 0.67 mmol, 407 mg | C(C1=CC=CC=C1)(=O)N[C@H]1[C@H](CCCC1)C(=O)N1CC[C@@H]2[C@@H](NC=3C=CC=CC3[C@@H]21)C=2N(C=CC2)C(=O)OCC2=CC=CC=C2 | C37H38N4O4
solvent | methanol | 3 ml | CO | CH4O
catalyst | palladium on carbon | 240 mg | [Pd] | Pd
product | N-((1R,2S)-2-{[(3aS,4S,9bS)-4-(1H-pyrrol-2-yl)-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinolin-1-yl]carbonyl}cyclohexyl)benzamide | 64 mg, 20% | N1C(=CC=C1)[C@H]1NC=2C=CC=CC2[C@@H]2[C@H]1CCN2C(=O)[C@@H]2[C@@H](CCCC2)NC(C2=CC=CC=C2)=O | C29H32N4O2
